US20010025047A1
Ethyl 4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A mixture of 18.1 g. (0.055 mole) of diethyl{[(1-phenyl-5-pyrazolyl)amino]methylene}malonate and 150 ml of diethyl phthalate was heated at 240-250° for 1 hour. The mixture was chilled and diluted with hexane. Chilling and filtering gave crystals which were washed with hexane and with hexane-ethanol (1:1) to give 11 g. (70%) of off white crystals m.p. 149-150° C. From a similar small scale run 1.75 g. was recrystallized from 110 ml. of ethanol to give 1.58 g. of off white crystals, m.p. 149-150° C.

reactant | diethyl{[(1-phenyl-5-pyrazolyl)amino]methylene}malonate | 0.055 mole | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1C1=CC=CC=C1)=O | C17H19N3O4
reactant | diethyl phthalate | 150 ml | C(C=1C(C(=O)OCC)=CC=CC1)(=O)OCC | C12H14O4
solvent | hexane | CCCCCC | C6H14
product | Ethyl 4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | OC1=C2C(=NC=C1C(=O)OCC)N(N=C2)C2=CC=CC=C2 | C15H13N3O3
